US08440666B2
3-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}propanoic Acid
Ethyl 3-{5-bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}propanoate (453 mg, 1.06 mmol) in 1,4-dioxane (4 mL) was stirred with 1 M aqueous sodium hydroxide (2.93 mL, 2.93 mmol) at room temperature for 1 hour. After completion of the reaction, ethyl acetate was added, and the organic layer was washed with 1 M hydrochloric acid and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to give the desired product (314 mg, 80% yield).

reactant | Ethyl 3-{5-bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}propanoate | 1.06 mmol, 453 mg | BrC1=C(C=NN(C1=O)CCC(=O)OCC)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C19H28BrN3O3
reactant | sodium hydroxide | 2.93 mmol, 1 M, 2.93 mL | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 3-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}propanoic Acid | 314 mg, 80% yield | BrC1=C(C=NN(C1=O)CCC(=O)O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C17H24BrN3O3
